US04695131
Step 1a2: The preparation of (+)-4-(trans-4-n-Butylcyclohexylacetyl)-2'-fluoro-4'-(2-methylbutyl)biphenyl
A mixture of (+)-2-Fluoro-4(2-methylbutyl)biphenyl (10 gram) and trans-4-n-butylcyclohexylacetyl chloride (9.4 gram) in dichloromethane (20 ml) was added over 20 minutes to a cooled (5°-10° C.), stirred suspension of anhydrous aluminium chloride 6.1 gram) in dichloromethane (20 ml). After the addition the reaction mixture was allowed to warm to 23° C. and left stirring for 17 hours. The resulting solution was added to water (200 ml), extracted successively with petroleum spirit (bp. 60°-80°:180 ml +100 ml). The organic extract was then washed with water (200 ml), dried over anhydrous sodium sulphate (5 gram) and evaporated. The yellow crystalline residue (17.9 gram) was recrystallised from ethanol (35 ml) at 25° C. to give the product (14.8 gram; 85% yield). The product had mp=71.4°-72.1° C.; VirtualCH-I, (68.5°-68.8° C.). It was found to be 99.5 % pure by glc.

reactant | (+)-2-Fluoro-4(2-methylbutyl)biphenyl | 10 gram | FC1=C(C=CC(=C1)CC(CC)C)C1=CC=CC=C1 | C17H19F
reactant | trans-4-n-butylcyclohexylacetyl chloride | 9.4 gram | C(CCC)[C@@H]1CC[C@H](CC1)CC(=O)Cl | C12H21ClO
reactant | aluminium chloride | 6.1 gram | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (+)-4-(trans-4-n-Butylcyclohexylacetyl)-2'-fluoro-4'-(2-methylbutyl)biphenyl | 85% yield | C(CCC)[C@@H]1CC[C@H](CC1)CC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)CC(CC)C)F | C29H39FO
